US04602016
Successive treatment of 1-[2-(4-carboxyphenoxy)ethyl]imidazole (1.4 g) with thionyl chloride (1.4 g) and morpholine (10 ml) as described in Example 25 gave N-[4-(2-imidazol-1-yl)ethoxybenzoyl]morpholine, m.p. 109°-111° C. (from ethyl acetate). Found: C, 63.80; H, 6.40; N, 13.87. C16H19N3O3 requires: C, 63.77; H, 6.36; N, 13.94%.

reactant | 1-[2-(4-carboxyphenoxy)ethyl]imidazole | 1.4 g | C(=O)(O)C1=CC=C(OCCN2C=NC=C2)C=C1 | C12H12N2O3
reactant | thionyl chloride | 1.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | morpholine | 10 ml | N1CCOCC1 | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(2-imidazol-1-yl)ethoxybenzoyl]morpholine | N1(C=NC=C1)CCOC1=CC=C(C(=O)N2CCOCC2)C=C1 | C16H19N3O3
